US09301951B2
3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-isopropoxyphenyl)carbamoyl)benzylthio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-isopropoxyphenyl)carbamoyl)-benzylthio)propanoate (230 mg, 0.28 mmol, 1.00 equiv, 85%) in dichloromethane (5 mL), and trifluoroacetic acid (1 mL). The resulting solution was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The crude product (180 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 139.8 mg (76%) of a white solid. 1H-NMR (400 MHz, DMSO-d6, ppm): δ 12.52 (s, 1H), 12.23 (s, 1H), 9.57 (t, J=8 Hz, 1H), 8.96 (d, J=4 Hz, 1H), 8.41-8.36 (m, 2H), 7.88-7.84 (m, 2H), 7.79-7.63 (m, 2H), 7.60-7.52 (m, 2H), 7.50-7.48 (m, 4H), 7.16-7.13 (d, J=12 Hz, 1H), 4.76-4.70 (m, 1H), 4.62 (d, J=6 Hz, 2H), 3.88 (s, 2H), 2.63-2.53 (m, 4H), 1.30 (s, 6H). MS (ES, m/z): 652 [M+H]+.

reactant | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-isopropoxyphenyl)carbamoyl)-benzylthio)propanoate | 0.28 mmol, 230 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)OC(C)C)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C38H40F3N3O5S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-isopropoxyphenyl)carbamoyl)benzylthio)propanoic acid | 139.8 mg, 76% | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)OC(C)C)NC(=O)C=2C=C(CSCCC(=O)O)C=CC2)C=CC1)(F)F | C34H32F3N3O5S
